US09145354B2
Step 3 A stirred suspension of {6-chloro-2-fluoro-3-[(1R)-1-(methylamino)propyl]-phenyl}(pyridin-3-yl)methanol (0.123 g, 0.398 mmol) and manganese(IV) oxide (0.693 g, 7.97 mmol) in toluene (1.99 mL) and 1,2-dichloroethane (1.99 mL) was heated at 100° C. for 2.5 hours. Upon cooling, the mixture was filtered; the residual solids were washed with DCM (×2) and concentrated. Preparative HPLC gave [(1R)-1-{4-chloro-2-fluoro-3-[(pyridin-3-yl)carbonyl]phenyl}propyl](methyl)amine which was converted to the HCl salt, 0.012 g, 9%.

reactant | {6-chloro-2-fluoro-3-[(1R)-1-(methylamino)propyl]-phenyl}(pyridin-3-yl)methanol | 0.398 mmol, 0.123 g | ClC1=CC=C(C(=C1C(O)C=1C=NC=CC1)F)[C@@H](CC)NC | C16H18ClFN2O
solvent | toluene | 1.99 mL | C1(=CC=CC=C1)C | C7H8
solvent | 1,2-dichloroethane | 1.99 mL | ClCCCl | C2H4Cl2
catalyst | manganese(IV) oxide | 7.97 mmol, 0.693 g | [O-2].[Mn+4].[O-2]
product | [(1R)-1-{4-chloro-2-fluoro-3-[(pyridin-3-yl)carbonyl]phenyl}propyl](methyl)amine | ClC1=C(C(=C(C=C1)[C@@H](CC)NC)F)C(=O)C=1C=NC=CC1 | C16H16ClFN2O
